**********
.subckt 3528_150141RB73100 1 2 3 4
D1 1 3 red
.MODEL red D
+ (IS=17.330E-12
+ N=3.6389
+ RS=8.0133
+ IKF=20.515
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 2 4 blue
.MODEL blue D
+ (IS=474.79E-9
+ N=3.3974
+ RS=18.442
+ IKF=211.91E-15
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********
.subckt 3528_150141RV73100 1 2 3 4
D1 1 3 red
.MODEL red D
+ (IS=258.02E-12
+ N=4.2549
+ RS=11.347
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 2 4 green
.MODEL green D
+ (IS=10.000E-21
+ N=1.7156
+ RS=2.2760E-6
+ IKF=179.75E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********
.subckt 3528_150141YB73100 1 2 3 4
D1 2 4 blue
.MODEL blue D
+ (IS=55.652E-9
+ N=3.5192
+ RS=20.917
+ IKF=14.217E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 1 3 yellow
.MODEL yellow D
+ (IS=2.8248E-12
+ N=3.4884
+ RS=6.8520
+ IKF=991.78
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********
.subckt 3528_150141YV73100 1 2 3 4
D1 1 3 yellow
.MODEL yellow D
+ (IS=258.02E-12
+ N=4.2549
+ RS=11.347
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 2 4 bgreen
.MODEL bgreen D
+ (IS=10.000E-21
+ N=1.7156
+ RS=2.2760E-6
+ IKF=179.75E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********
.subckt 3528_150141RY73110 1 2 3 4
D1 1 3 red
.MODEL red D
+ (IS=146.80E-12
+ N=4.0208
+ RS=10.268
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 2 yellow
.MODEL yellow D
+ (IS=10.000E-21
+ N=1.7156
+ RS=2.2760E-6
+ IKF=179.75E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********
.subckt 3528_150141SV73110 1 2 3 4
D1 1 3 sred
.MODEL sred D
+ (IS=107.93E-12
+ N=3.9041
+ RS=9.8009
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 2 bgreen
.MODEL bgreen D
+ (IS=10.000E-21
+ N=1.7156
+ RS=2.2760E-6
+ IKF=179.75E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********
.subckt 3528_150141YV73110 1 2 3 4
D1 1 3 yellow
.MODEL yellow D
+ (IS=258.02E-12
+ N=4.2549
+ RS=11.347
+ IKF=445.62
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 2 bgreen
.MODEL bgreen D
+ (IS=10.000E-21
+ N=1.7156
+ RS=1.7700E-6
+ IKF=179.75E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********

















































